US08802679B2
tert-Butyl (2-{[(4′-aminobiphenyl-3-yl)methyl](methyl)amino]-2-oxoethyl}carbamate (240 mg) was dissolved in a mixed solution of EtOAc (10 ml)/saturated aqueous sodium hydrogen carbonate solution (10 ml), followed by ice-cooling. A solution of cyclohexanecarbonyl chloride (142 mg) in EtOAc (5 ml) was added dropwise thereto. The reaction mixture was returned to room temperature and stirred for 24 hours, and then to the reaction mixture was added water, followed by extraction with EtOAc. The organic layer was dried over MgSO4 and evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (EtOAc/hexane=2/1) to obtain tert-butyl {2-[({4′-[(cyclohexylcarbonyl)amino]biphenyl-3-yl}methyl)(methyl)amino]-2-oxoethyl}carbamate (311 mg).

reactant | tert-Butyl (2-{[(4′-aminobiphenyl-3-yl)methyl](methyl)amino]-2-oxoethyl}carbamate | 240 mg | NC1=CC=C(C=C1)C1=CC(=CC=C1)CN(C(CNC(OC(C)(C)C)=O)=O)C | C21H27N3O3
reactant | cyclohexanecarbonyl chloride | 142 mg | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | sodium hydrogen carbonate | 10 ml | C(O)([O-])=O.[Na+]
solvent | EtOAc | 5 ml | CCOC(=O)C | C4H8O2
product | tert-butyl {2-[({4′-[(cyclohexylcarbonyl)amino]biphenyl-3-yl}methyl)(methyl)amino]-2-oxoethyl}carbamate | 311 mg | C1(CCCCC1)C(=O)NC1=CC=C(C=C1)C1=CC(=CC=C1)CN(C(CNC(OC(C)(C)C)=O)=O)C | C28H37N3O4
